US09120749B2
cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((6-(3-(methylamino)pyrrolidin-1-yl)pyridin-3-yl)amino)quinolin-3-yl)methanone trihydrochloride
To a solution of tert-butyl (1-(5-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate (90 mg, 0.14 mmol) in THF (3 mL) was added TFA (2 mL). The reaction mixture was heated at 65° C. for 16 h, cooled to room temperature and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The residue was dissolved in methanol (8 mL) and HCl (6 M in water, 1.0 mL, 6 mmol) was added. The resultant solution was concentrated to give the desired product (12.3 mg, 13%) as an orange solid. 1H NMR (500 MHz, MeOD) δ 9.37 (s, 1H), 8.31-8.19 (m, 3H), 8.05 (d, J=8.8 Hz, 1H), 7.87 (dd, J=9.3, 2.7 Hz, 1H), 7.44 (s, 2H), 7.05 (d, J=9.3 Hz, 1H), 4.12-4.01 (m, 2H), 3.93-3.81 (m, 2H), 3.80-3.71 (m, 1H), 2.88-2.79 (m, 1H), 2.83 (s, 3H), 2.69-2.58 (m, 1H), 2.43-2.32 (m, 1H), 1.26-1.18 (m, 4H). ESI MS m/z 548 [C29H27Cl2N5O2+H]+; HPLC 95.9% (AUC), tR=10.31 min.

reactant | tert-butyl (1-(5-((3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate | 0.14 mmol, 90 mg | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C)C1=CC(=C(C(=C1)Cl)O)Cl | C34H35Cl2N5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 6 mmol, 6 M, 1.0 mL | Cl | ClH
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | cyclopropyl(6-(3,5-dichloro-4-hydroxyphenyl)-4-((6-(3-(methylamino)pyrrolidin-1-yl)pyridin-3-yl)amino)quinolin-3-yl)methanone trihydrochloride | 12.3 mg, 13% | Cl.Cl.Cl.C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=CC1)N1CC(CC1)NC)C1=CC(=C(C(=C1)Cl)O)Cl | InChI=1S/C29H27Cl2N5O2.3ClH/c1-32-20-8-9-36(15-20)26-7-5-19(13-34-26)35-27-21-10-17(18-11-23(30)29(38)24(31)12-18)4-6-25(21)33-14-22(27)28(37)16-2-3-16;;;/h4-7,10-14,16,20,32,38H,2-3,8-9,15H2,1H3,(H,33,35);3*1H
